*BZX55C5V1 MCE 4/7/98
*Ref: Temic Semiconductor Short Form, 1996
*5.1V 500mW Si Zener pkg:Diode0.4 1,2
.SUBCKT BZX55C5V1 1 2
*    TERMINALS:  A K
D1 1 2  DF
DZ 3 1  DR
VZ 2 3  4.596
.MODEL DF D (IS=2.51N RS=84M N=1.7 CJO=94.6P VJ=0.75 M=0.33 TT=50.1N)
.MODEL DR D (IS=5.75E-27 RS=0.777 N=0.35)
.ENDS